US05136069
(a) trans-1,2-Bis-(4-benzocyclobutenyl)ethylene
An experiment is run as in Example 3, using 0.28 g of palladium acetate, 1.50 g of tris-(o-tolyl)phosphine, 150 g of 4-bromobenzocyclobutene, 350 mL of N,N-dimethylformamide, 175 mL of deionized water and KOAc as hydrogen halide acceptor.

reactant | tris-(o-tolyl)phosphine | 1.50 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4-bromobenzocyclobutene | 150 g | BrC1=C2C(CC2)=CC=C1 | C8H7Br
reactant | N,N-dimethylformamide | 350 mL | CN(C=O)C | C3H7NO
reactant | KOAc | CC(=O)[O-].[K+]
catalyst | palladium acetate | 0.28 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 175 mL | O | H2O
product | trans-1,2-Bis-(4-benzocyclobutenyl)ethylene | C1=CC2=C1C=CC(=C2)\C=C\C2=CC1=C(C=C1)C=C2 | C18H12
